US07235581B2
A mixture of 0.35 g (0.81 mmol) of (S)-[1-(4-benzyloxy-phenylcarbamoyl)-3-methylsulfanyl-propyl]-carbamic acid tert-butyl ester and 8.79 g (62.0 mmol) of methyliodide is stirred at RT for 3 d. Thereafter, the methyliodide is evaporated, the intermediate sulfonium salt dissolved in 15 ml of THF and treated with 0.79 ml (0.79 ml) of lithium bis-(trimethylsilyl)amide (1 M solution in THF) at 0° C. After stirring at 0° C. for 2 h, the reaction mixture is evaporated under reduced pressure and the solid residue is directly submitted to chromatography on silica gel using a 2:1 mixture of n-hexane and ethyl acetate as the eluent. There are obtained 0.175 mg (56% of theory) of (S)-[1-(4-benzyloxy-phenyl)-2-oxo-pyrrolidin-3-yl]-carbamic acid tert-butyl ester as a white solid. MS: m/e=383 (M+H)+.

reactant | (S)-[1-(4-benzyloxy-phenylcarbamoyl)-3-methylsulfanyl-propyl]-carbamic acid tert-butyl ester | 0.81 mmol, 0.35 g | C(C)(C)(C)OC(N[C@@H](CCSC)C(NC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C23H30N2O4S
reactant | methyliodide | 62.0 mmol, 8.79 g | CI | CH3I
product | (S)-[1-(4-benzyloxy-phenyl)-2-oxo-pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 0.175 mg, 56% | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C22H26N2O4
